US07951951B2
31.55 g (80.36 mmol) of 4-[[(6-chloropyridin-3-yl]methyl](3-iodopropyl)amino]furan-2(5H)-one (II-3) are dissolved in 900 ml of tetrahydrofuran and cooled to −78° C., and 42.19 ml (84.38 mmol) of a 2.0M solution of lithium diisopropylamide in tetrahydrofuran are added. After 10 minutes of stirring at −78° C., the mixture is warmed to room temperature and stirred at room temperature for a further 30 minutes. After addition of 20 ml of methanol, the mixture is concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate gives 18.05 g (85% of theory) of 4-[(6-chloropyridin-3-yl)methyl]-5,6,7,7a-tetrahydrofuro[3,2-b]pyridine-2(4H)-one.

reactant | 4-[[(6-chloropyridin-3-yl]methyl](3-iodopropyl)amino]furan-2(5H)-one | 80.36 mmol, 31.55 g | ClC1=CC=C(C=N1)CN(C1=CC(OC1)=O)CCCI | C13H14ClIN2O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 4-[(6-chloropyridin-3-yl)methyl]-5,6,7,7a-tetrahydrofuro[3,2-b]pyridine-2(4H)-one | 18.05 g, 85% | ClC1=CC=C(C=N1)CN1C=2C(CCC1)OC(C2)=O | C13H13ClN2O2
